US07307086B2
(1S,3R)-3-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic Acid
To a solution of (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylic acid (9.78 g, 36.3 mmol) in ethanol (250 mL) was added 10% palladium on carbon (550 mg). The mixture was shaken under hydrogen at 55 psi overnight and filtered through celite. The filtrate was evaporated in vacuo to afford the title compound (9.45 g, 96%). MS calculated for C14H25NO4: (M+H)+272; found 172.1 (M−Boc+H)+.

reactant | (1S,4S)-4-[(tert-butoxycarbonyl)amino]-1-isopropylcyclopent-2-ene-1-carboxylic acid | 36.3 mmol, 9.78 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)O)C(C)C | C14H23NO4
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 550 mg | [Pd] | Pd
product | (1S,3R)-3-[(tert-Butoxycarbonyl)amino]-1-isopropylcyclopentanecarboxylic Acid | 9.45 g, 96% | C(C)(C)(C)OC(=O)N[C@H]1C[C@](CC1)(C(=O)O)C(C)C | C14H25NO4
